US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)pyrido[2,3-b]pyrazin-2(1H)-one Hydrochloride
A solution of 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate (1.408 g, 2.551 mmol) in chloroform (20 ml) and MeOH (5 ml) was added 4M HCl in 1,4-dioxane (10 ml) and the reaction was stirred at rt for 0.5 h before evaporation, treatment with sat. aq NaHCO3 (50 ml). The reaction was then extracted with 20% MeOH in DCM (3×100 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the free base of the title compound as a yellow solid (266 mg, 23%).

reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate | 2.551 mmol, 1.408 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)OC | C28H36N6O6
reactant | HCl | 4M | Cl | ClH
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 5 ml | CO | CH4O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)pyrido[2,3-b]pyrazin-2(1H)-one Hydrochloride | 266 mg, 23% | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)N=CC(=C1)OC | InChI=1S/C23H28N6O4.ClH/c1-31-18-11-19-23(26-13-18)27-15-22(30)29(19)7-6-28-4-2-16(3-5-28)24-12-17-10-20-21(14-25-17)33-9-8-32-20;/h10-11,13-16,24H,2-9,12H2,1H3;1H
